US04731367
3-[2-bromo-1-(tert-butyldiphenylsilyl)-9,10-didehyro-6-methyl-8α-ergolinyl]-1,1-diethylurea;
3-[2-bromo-1-(tert-butyldiphenylsilyl)-6-methyl-8α-ergolinyl]-1,1-diethylurea, yield: 19%, [α]D =-0.6° (0.5% in chloroform);

reactant | 3-[2-bromo-1-(tert-butyldiphenylsilyl)-6-methyl-8α-ergolinyl]-1,1-diethylurea | BrC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C32)NC(N(CC)CC)=O)C | C36H45BrN4OSi
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-[2-bromo-1-(tert-butyldiphenylsilyl)-9,10-didehyro-6-methyl-8α-ergolinyl]-1,1-diethylurea | yield: 19% | BrC1=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C(N1[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C32)NC(N(CC)CC)=O)C | C36H43BrN4OSi
